* =============================================================
* APPLIANCE-ONLY NETLIST - CEILING FAN
* 75W @ 230V 50Hz, PF=0.8 (inductive motor)
* Ideal voltage + current measurement only (no ACS712/DG408/MCP)
* =============================================================

V1          MAINS   0   SINE(0 325 50 0 0 0 0)

* ---- Ideal ammeter (0 V series source) ----
V_AMMETER   MAINS   CF_LINE   DC 0

* ---- Ideal voltmeter (1 Tohm shunt across supply) ----
R_VOLTMETER MAINS   0   1T

* ---- Ceiling Fan motor model (R+L series, 75W @ PF=0.8) ----
* Z = 230/I, P = 75W => I = 75/(230*0.8)=0.408A
* R = P/I^2 = 75/0.167 = 450 Ω, L = (X/omega) = Z*sin(phi)/2pi/50
* X = Z*sqrt(1-PF^2), Z=230/0.408=564, X=564*0.6=338, L=338/(2*pi*50)=1.076H
R_CF_motor  CF_LINE     CF_NODE_A   450
L_CF_motor  CF_NODE_A   CF_NEUT     1.076
R_CF_neut   CF_NEUT     0           0.001

* =============================================================
* SIMULATION: 5 full cycles (100ms) is enough; keep 3 cycles for
* measurement. Using 3 s to match original steady-state window.
* =============================================================
.tran 0 3 0 100u

* =============================================================
* MEASUREMENTS  (last 2 cycles of a 3-second run, well past
* any L start-up transient)
* Node V(MAINS)  = mains voltage
* I(V_AMMETER)  = appliance current (positive = into appliance)
* =============================================================
.meas TRAN Vrms       RMS V(MAINS)                     FROM 2.96 TO 3.0
.meas TRAN Irms       RMS I(V_AMMETER)                 FROM 2.96 TO 3.0
.meas TRAN Pavg       AVG V(MAINS)*I(V_AMMETER)        FROM 2.96 TO 3.0
.meas TRAN Sapp       PARAM Vrms*Irms


.option reltol=0.001
.option method=gear
.backanno
.end
