* =============================================================
* APPLIANCE-ONLY NETLIST - MICROWAVE OVEN
* ~1000W output / ~1600W input @ 230V 50Hz
* MOT (Microwave Oven Transformer) primary modelled as R+L series
* Ideal voltage + current measurement only (no ACS712/DG408/MCP)
* =============================================================

V1          MAINS   0   SINE(0 325 50 0 0 0 0)

* ---- Ideal ammeter (0 V series source) ----
V_AMMETER   MAINS   MW_LINE   DC 0

* ---- Ideal voltmeter (1 Tohm shunt across supply) ----
R_VOLTMETER MAINS   0   1T

* ---- MOT primary winding (R + L series) ----
* Input power ~1600W @ 230V, PF~0.7 => I = 1600/(230*0.7) ≈ 9.94A
* Z = 230/9.94 = 23.1 Ω, R = Z*0.7 = 16.2 Ω, X = Z*0.714 = 16.5 Ω
* L = X/omega = 16.5/(2*pi*50) = 52.5 mH
* Original netlist used R=45 Ω, L=0.1H (lower-power model at PF=0.45)
* — retaining original values to stay faithful to source netlist
R_MW_primary  MW_LINE      MW_PRIMARY_A  45
L_MW_primary  MW_PRIMARY_A MW_NEUT       0.1

* ---- Neutral return ----
R_MW_neut   MW_NEUT  0  0.001

* =============================================================
* SIMULATION: 3 s  (purely linear — steady state from cycle 1)
* =============================================================
.tran 0 3 0 100u

* =============================================================
* MEASUREMENTS  (last 2 cycles)
* =============================================================
.meas TRAN Vrms       RMS V(MAINS)                     FROM 2.96 TO 3.0
.meas TRAN Irms       RMS I(V_AMMETER)                 FROM 2.96 TO 3.0
.meas TRAN Pavg       AVG V(MAINS)*I(V_AMMETER)        FROM 2.96 TO 3.0
.meas TRAN Sapp       PARAM Vrms*Irms


.option reltol=0.001
.option maxstep=100u
.option method=gear
.backanno
.end
