* =============================================================
* APPLIANCE-ONLY NETLIST - REFRIGERATOR
* 150W compressor @ 230V 50Hz (cap-run, PTC start, thermostat duty)
* Ideal voltage + current measurement only (no ACS712/DG408/MCP)
* =============================================================

V1          MAINS   0   SINE(0 325 50 0 0 0 0)

* ---- Ideal ammeter (0 V series source) ----
V_AMMETER   MAINS   RF_LINE   DC 0

* ---- Ideal voltmeter (1 Tohm shunt across supply) ----
R_VOLTMETER MAINS   0   1T

* ---- Auxiliary supply rails for thermostat PCB ----
V_RF_12V  RF_VCC12  0  DC 12
V_RF_5V   RF_VCC5   0  DC 5

* ---- Thermostat duty-cycle PWL & NTC divider ----
V_RF_thermo   RF_THERMO_CTRL  0  PWL(0 5  22 5  22.001 0  60 0  60.001 5  82 5  82.001 0  120 0)
V_RF_ntc_div  RF_NTC_DIV  0  PWL(0 3.55  22 4.10  22.001 4.10  60 3.55  60.001 3.55  82 4.10  82.001 4.10  120 3.55)

* ---- Set-point divider ----
R_RF_t     RF_VCC5  RF_VREF  3.3k
R_RF_b     RF_VREF  0        10.7k

* ---- Comparator ----
B_RF_comp       RF_COMP_OUT  0  V=IF(V(RF_NTC_DIV) > V(RF_VREF), 5, 0)
C_RF_comp_filt  RF_COMP_OUT  0  10u
C_RF_dec        RF_VCC5  0  100n

* ---- NPN relay driver ----
R_RF_base  RF_COMP_OUT  RF_BASE_Q  7.4k
Q_RF_drv   RF_COL_Q     RF_BASE_Q  0   RF_BC547
.model RF_BC547 NPN(Is=1e-14 Bf=200 Vaf=100 Rc=0.5 Re=0.5 Cje=12p Cjc=6p Tf=0.5n)

* ---- Relay coil + flyback ----
R_RF_coil  RF_VCC12   RF_COIL_MID  80
L_RF_coil  RF_COIL_MID  RF_COL_Q   50m
D_RF_fly   RF_COL_Q  RF_VCC12  RF_D1N4007
.model RF_D1N4007 D(Is=4.35n Rs=0.5 N=1.975 Bv=1000 Cjo=10p)

* ---- Relay contact ----
S_RF_relay  RF_LINE  RF_FUSE_LINE  RF_COL_Q  0  RF_RELAY_SW
.model RF_RELAY_SW SW(Ron=0.02 Roff=100Meg Vt=6 Vh=2)

* ---- Overload wire (sense resistor simulation) ----
R_RF_sense    RF_FUSE_LINE  RF_OL_IN  0.1
R_RF_ol_wire  RF_OL_IN  RF_MOTOR_LINE  0.001

* ---- PTC starter (closes on power-up, opens after ~RC delay) ----
R_RF_ptc_delay  RF_COL_Q  RF_PTC_CAP  2k
C_RF_ptc_delay  RF_PTC_CAP  0          15u
S_RF_ptc  RF_START_IN  RF_START_OUT  RF_PTC_CAP  0  RF_PTC_SW
.model RF_PTC_SW SW(Ron=6.8 Roff=1Meg Vt=4 Vh=2)

* ---- Compressor motor: main + start windings ----
R_RF_main    RF_MOTOR_LINE  RF_MW_MID     300
L_RF_main    RF_MW_MID      RF_MOTOR_NEG  0.8
R_RF_start   RF_MOTOR_LINE  RF_START_IN   500
L_RF_start   RF_START_OUT   RF_MOTOR_NEG  0.22
C_RF_phase   RF_START_IN    RF_START_OUT  20u

* ---- Neutral return ----
R_RF_return  RF_MOTOR_NEG   0  0.01

* ---- Door lamp (on when door open: t=10..12 s) ----
V_RF_door  RF_DOOR_CTRL  0  PWL(0 5  10 5  10.001 0  12 0  12.001 5  120 5)
S_RF_door   RF_LINE  RF_LAMP_IN  RF_DOOR_CTRL  0  RF_DOOR_SW
.model RF_DOOR_SW SW(Ron=0.01 Roff=100Meg Vt=2.5 Vh=1)
R_RF_lamp   RF_LAMP_IN  0  3527

* =============================================================
* SIMULATION: 120 s (covers two full thermostat cycles)
* =============================================================
.tran 0 120 0 1m

* =============================================================
* MEASUREMENTS  (window 90-120 s — steady duty cycle)
* =============================================================
.meas TRAN Vrms       RMS V(MAINS)                     FROM 90 TO 120
.meas TRAN Irms       RMS I(V_AMMETER)                 FROM 90 TO 120
.meas TRAN Pavg       AVG V(MAINS)*I(V_AMMETER)        FROM 90 TO 120
.meas TRAN Sapp       PARAM Vrms*Irms


.option reltol=0.001
.option maxstep=1m
.option method=gear
.backanno
.end
