* =============================================================
* APPLIANCE-ONLY NETLIST - RICE COOKER
* 500W cook -> 50W keep-warm @ 230V 50Hz (resistive, bimetal)
* Ideal voltage + current measurement only (no ACS712/DG408/MCP)
* =============================================================

V1          MAINS   0   SINE(0 325 50 0 0 0 0)

* ---- Ideal ammeter (0 V series source) ----
V_AMMETER   MAINS   RC_LINE   DC 0

* ---- Ideal voltmeter (1 Tohm shunt across supply) ----
R_VOLTMETER MAINS   0   1T

* ---- Temperature ramp PWL (°C vs time in seconds) ----
* Pot reaches ~103 °C at ~900 s, then rises slowly to 105 °C
V_RC_temp  RC_T_pot  0  PWL(0 25  899 102.9  900 103.1  1800 105)

* ---- Cook / keep-warm logic ----
B_RC_main_ctrl  RC_MAIN_CTRL  0  V = IF(V(RC_T_pot) < 103, 5, 0)
B_RC_warm_ctrl  RC_WARM_CTRL  0  V = IF(V(RC_T_pot) >= 103, 5, 0)

* ---- Main (cook) element switch + resistor ----
* 500W @ 230V => R = 230^2/500 = 105.8 Ω
S_RC_main   RC_LINE      RC_MAIN_IN   RC_MAIN_CTRL  0  RC_MAIN_SW
.model RC_MAIN_SW SW(Ron=0.01 Roff=100Meg Vt=2.5 Vh=0.5)
R_RC_main   RC_MAIN_IN   RC_NEUT      105.8

* ---- Warm element switch + resistor ----
* 50W @ 230V => R = 230^2/50 = 1058 Ω
S_RC_warm   RC_LINE      RC_WARM_IN   RC_WARM_CTRL  0  RC_WARM_SW
.model RC_WARM_SW SW(Ron=0.01 Roff=100Meg Vt=2.5 Vh=0.5)
R_RC_warm   RC_WARM_IN   RC_NEUT      1058

* ---- Neutral return ----
R_RC_neut   RC_NEUT  0  0.001

* =============================================================
* SIMULATION:
*   Phase A: 0-900 s    — cook mode (500W)
*   Phase B: 900-1800 s — keep-warm mode (50W)
* Measuring the COOK phase here (adjust FROM/TO for warm phase)
* =============================================================
.tran 0 1800 0 10m

* =============================================================
* MEASUREMENTS
* Cook phase (850-900 s) and warm phase (1750-1800 s)
* =============================================================
.meas TRAN Vrms_cook    RMS V(MAINS)                     FROM 850  TO 900
.meas TRAN Irms_cook    RMS I(V_AMMETER)                 FROM 850  TO 900
.meas TRAN Pavg_cook    AVG V(MAINS)*I(V_AMMETER)        FROM 850  TO 900
.meas TRAN Sapp_cook    PARAM Vrms_cook*Irms_cook


.meas TRAN Vrms_warm    RMS V(MAINS)                     FROM 1750 TO 1800
.meas TRAN Irms_warm    RMS I(V_AMMETER)                 FROM 1750 TO 1800
.meas TRAN Pavg_warm    AVG V(MAINS)*I(V_AMMETER)        FROM 1750 TO 1800
.meas TRAN Sapp_warm    PARAM Vrms_warm*Irms_warm


.option reltol=0.001
.option maxstep=10m
.option method=gear
.backanno
.end
