* =============================================================
* APPLIANCE-ONLY NETLIST - WATER PUMP
* 1 HP ~1200W @ 230V 50Hz, PF=0.78 (capacitor-run induction motor)
* Ideal voltage + current measurement only (no ACS712/DG408/MCP)
* =============================================================

V1          MAINS   0   SINE(0 325 50 0 0 0 0)

* ---- Ideal ammeter (0 V series source) ----
V_AMMETER   MAINS   WP_LINE   DC 0

* ---- Ideal voltmeter (1 Tohm shunt across supply) ----
R_VOLTMETER MAINS   0   1T

* ---- Main winding (R+L series) ----
* Rated: 1200W, PF=0.78 => I_main ≈ 6.72A
* Z = 230/6.72 = 34.2 Ω, R = Z*PF = 26.7 Ω, X = Z*0.626 = 21.4 Ω
* L = X/omega = 21.4/(2*pi*50) = 68.5 mH
R_WP_main  WP_LINE    WP_MID_M   26.8
L_WP_main  WP_MID_M   WP_NEUT    68.5m

* ---- Auxiliary (run-cap) winding ----
* Run capacitor shifts current 90° for starting torque
C_WP_run   WP_LINE    WP_MID_A   10u
R_WP_aux   WP_MID_A   WP_MID_B   35
L_WP_aux   WP_MID_B   WP_NEUT    55m

* ---- Neutral return ----
R_WP_neut  WP_NEUT    0          0.001

* =============================================================
* SIMULATION: 3 s  (motor reaches steady state within ~0.5 s)
* =============================================================
.tran 0 3 0 100u

* =============================================================
* MEASUREMENTS  (last 2 cycles)
* =============================================================
.meas TRAN Vrms       RMS V(MAINS)                     FROM 2.96 TO 3.0
.meas TRAN Irms       RMS I(V_AMMETER)                 FROM 2.96 TO 3.0
.meas TRAN Pavg       AVG V(MAINS)*I(V_AMMETER)        FROM 2.96 TO 3.0
.meas TRAN Sapp       PARAM Vrms*Irms


.option reltol=0.001
.option maxstep=100u
.option method=gear
.backanno
.end
